US06063886
To a 15-liter autoclave vacuum dried and purged with nitrogen, 887 g of norbornene, 1,100 ml of styrene, 777 ml of cyclohexane and 3 ml of a cyclohexane solution of triisobutylaluminum (1 mmol/ml) were introduced at ambient temperature. The autoclave was pressurized up to 6 kg/cm2 -G with ethylene while stirring, and then the pressure was released. The operations of pressurizing and pressure release were repeated three times. Thereafter, the system was pressurized to 1.5 kg/cm2 -G with ethylene, and the temperature was raised to 70° C. The system was then pressurized with ethylene so that the internal pressure became 6 kg/cm2 -G. After stirring for 15 minutes, 13.7 ml of the catalyst solution previously prepared was added to the system to initiate copolymerization of ethylene and norbornene. With respect to the catalyst concentration at this time, the concentration of the isopropylidene-bis(indenyl)zirconium dichloride in the whole system was 0.0123 mmol/l, and the concentration of the methylaluminoxane in the whole system was 7.5 mmol/l. During the polymerization, ethylene was continuously fed to maintain the internal pressure at 6 kg/cm2 -G. After 60 minutes, isopropyl alcohol was added to terminate the polymerization reaction. After the pressure was released, the polymer solution was drawn out and washed with an aqueous solution of 5 ml of concentrated hydrochloric acid in 1 liter of water in a ratio between the polymer solution and the aqueous solution of 1:1, to transfer the catalyst residue into the aqueous phase. This contact mixed solution was allowed to stand, then the aqueous phase was removed by separation, and the remainder was further washed twice with distilled water to separate the polymerization liquid phase into an oil portion and an aqueous portion. The oil portion was brought into contact with acetone in an amount 3 times as much as the oil portion with vigorous stirring to precipitate a polymer and then sufficiently washed with acetone. The resulting solid portion (copolymer) was collected by filtration and dried at 130° C. and 350 mmHg for 12 hours in a stream of nitrogen. Thus, an ethylene/norbornene/styrene copolymer was obtained in a yield of 240 g, and the copolymer had an intrinsic viscosity [η], as measured in a decalin solvent at 135° C., of 0.8 dl/g, a glass transition temperature (Tg) of 142° C., a norbornene content of 41.1% by mol, a styrene content of 9.8% by mol and an activity of 6,500 g/mmol-Zr.

reactant | ethylene | C=C | C2H4
reactant | norbornene | C12C=CC(CC1)C2 | C7H10
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | acetone | CC(=O)C | C3H6O
product | ethylene/norbornene styrene | C=C.C12C=CC(CC1)C2.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C7H10.C2H4/c1-2-8-6-4-3-5-7-8;1-2-7-4-3-6(1)5-7;1-2/h2-7H,1H2;1-2,6-7H,3-5H2;1-2H2
